US07601716B2
2-(2,5-Difluorophenyl)-1-{7-[4-(4-(pyrrolidin-1-yl)piperidine-1-carbonyl)phenyl]-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl}ethanone
2-(2,5-Difluorophenyl)-1-(7-iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)ethanone (30 mg) was reacted with (4-(pyrrolidin-1-yl)piperidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone as in General Procedure 4A to give the title compound as a white foam (20% yield). M.p. (foam), LCMS: m/z=546.09 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.42-1.72 (m, 6H), 2.22-2.42 (m, 2H), 2.54-2.64 (m, 5H), 2.85-3.11 (m, 3H), 3.56-3.62 (m, 2H), 3.88-3.92 (m, 4H), 4.55-4.66 (m, 1H), 5.23 (s, 1H), 6.91-7.07 (m, 3H), 7.41-7.49 (m, 4H), 8.16 (s, 1H).

reactant | 2-(2,5-Difluorophenyl)-1-(7-iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)ethanone | 30 mg | FC1=C(C=C(C=C1)F)CC(=O)N1C2=C(NCC1)N=CC(=C2)I | C15H12F2IN3O
reactant | (4-(pyrrolidin-1-yl)piperidin-1-yl)-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]methanone | N1(CCCC1)C1CCN(CC1)C(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C22H33BN2O3
product | 2-(2,5-Difluorophenyl)-1-{7-[4-(4-(pyrrolidin-1-yl)piperidine-1-carbonyl)phenyl]-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl}ethanone | 20% yield | FC1=C(C=C(C=C1)F)CC(=O)N1C2=C(NCC1)N=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCC(CC2)N2CCCC2 | C31H33F2N5O2
